US07696347B2
(16A-2) (2-Methylpropoxy)methyl boronic acid
To a solution of tributyl-(2-methylpropoxy)methyl-tin (1.00 g, 2.65 mmol) in tetrahydrofuran (20 ml) was added dropwise n-butyllithium (1.54M n-hexane solution, 1.72 ml, 2.65 mmol) at −78° C. (external temperature) under the nitrogen atmosphere, and the reaction mixture was stirred at the same temperature for 35 minutes. Then, to the reaction mixture was added triisopropyl borate (1.10 ml, 4.74 mmol) at −78° C. (external temperature) under the nitrogen atmosphere, and the reaction mixture was stirred at room temperature for 50 minutes. To the reaction mixture was added a 1N aqueous sodium hydroxide solution at room temperature. The resultant was extracted three times, and the resulting aqueous layer was washed with diethyl ether. Then, to the resulting aqueous layer was added 5N aqueous hydrochloric acid solution to make the solution acidic, followed by extraction with diethyl ether three times. The resulting organic layer was washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and filtered. The solvent was distilled off from the filtrate to obtain the title compound (101 mg, 0.765 mmol, 29%).

reactant | tributyl-(2-methylpropoxy)methyl-tin | 2.65 mmol, 1.00 g | C(CCC)[Sn](COCC(C)C)(CCCC)CCCC
reactant | n-butyllithium | 2.65 mmol, 1.54M, 1.72 ml | C(CCC)[Li]
reactant | triisopropyl borate | 4.74 mmol, 1.10 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2-Methylpropoxy)methyl boronic acid | 0.765 mmol, 101 mg, 29% | CC(COCB(O)O)C | C5H13BO3
